US06211234B1
A stirred solution of 2-(2-bromo-5-methoxyphenyl)-[1,3]dioxolane (25.92 g) in tetrahydrofuran (400 mL) at −70° C. is treated dropwise with a solution of n-butyl lithium in hexanes (48.0 mL, 2.5 M). After stirring for 10 minutes methyl iodide (21.29 g) is added dropwise whilst maintaining the temperature at −65° C. The reaction mixture is stirred at −65° C. for 1 hour, allowed to warm to room temperature and stirring is continued for a further hour. The reaction mixture is evaporated and the residue partitioned between ethyl acetate (50 mL) and water (50 mL). The organic phase is washed with brine (500 mL),dried over magnesium sulphate and evaporated to give 2-(5-methoxy-2-methyl-phenyl)-[1,3]dioxolane (18.25 g) as a yellow oil.

reactant | 2-(2-bromo-5-methoxyphenyl)-[1,3]dioxolane | 25.92 g | BrC1=C(C=C(C=C1)OC)C1OCCO1 | C10H11BrO3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl iodide | 21.29 g | CI | CH3I
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 2-(5-methoxy-2-methyl-phenyl)-[1,3]dioxolane | 18.25 g | COC=1C=CC(=C(C1)C1OCCO1)C | C11H14O3
